US06809199B2
Step C: methyl 5-bromo-1-(2,6-dichlorophenyl)-2-oxo-1,4-dihydro-2H-3,1-benzoxazine-7-carboxylate
To a solution of methyl 3,5-dibromo-4-[({[(2,6-dichlorophenyl)amino]carbonyl}oxy)methyl]benzoate (1 g, 1.96 mmol, 1 eq) in DMF (20 mL) was added CuI (411 mg, 2.16 mmol, 1.1 eq) and diisopropylethylamine (0.51 mL, 2.95 mmol, 1.5 eq). Degassed the reaction flask with argon and placed in a 140° C. oil bath. After 2.5 h the reaction was cooled. The mixture was filtered to remove inorganics. The solvent was removed under reduced pressure. The residue was dissolved in CH2Cl2, and washed with water. The aqueous layer was back-extracted 2× with CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated. The residue was triturated with Et2O leaving 283 mg of solid methyl 5-bromo-1-(2,6-dichlorophenyl)-2-oxo-1,4-dihydro-2H-3,1-benzoxazine-7-carboxylate. The supernatant was further purified by flash column chromatography on silica gel eluting with 2:1 CH2Cl2/hexanes giving an additional 309 mg of not quite pure product. Mass spectrum (ESI) 430.0 (M+1); 432.0 (M+3), 434.0 (M+5).

reactant | methyl 3,5-dibromo-4-[({[(2,6-dichlorophenyl)amino]carbonyl}oxy)methyl]benzoate | 1.96 mmol, 1 g, 1 eq | BrC=1C=C(C(=O)OC)C=C(C1COC(=O)NC1=C(C=CC=C1Cl)Cl)Br | C16H11Br2Cl2NO4
reactant | diisopropylethylamine | 2.95 mmol, 0.51 mL, 1.5 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 2.16 mmol, 411 mg, 1.1 eq | [Cu]I
product | methyl 5-bromo-1-(2,6-dichlorophenyl)-2-oxo-1,4-dihydro-2H-3,1-benzoxazine-7-carboxylate | BrC1=CC(=CC2=C1COC(N2C2=C(C=CC=C2Cl)Cl)=O)C(=O)OC | C16H10BrCl2NO4
